US04585780
3-Benzyloxy-2-methyl-4-pyrone, prepared as described under Example 10, is reacted with 1-amino-4-hydroxybutane under substantially similar conditions to those described under Example 11 for reaction with 2-hydroxyethylamine to give 3-benzyloxy-1-(4'-hydroxybutyl)-2-methylpyrid-4-one. This is deprotected using the procedure described under (I) to give 3-hydroxy-1-(4'-hydroxybutyl)-2-methylpyrid-4-one as white crystals, m.p. 126°-128° C.; νmax (nujol) 1630, 3350 cm-1 ; δ(d6DMSO) 1.5 (m, 4H), 2.45 (s, 3H) 3.35 (t, 2H), 4.30 (t, 2H), 7.25 (d 1H), 8.2 (d, 1H).

reactant | 3-Benzyloxy-2-methyl-4-pyrone | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
reactant | 1-amino-4-hydroxybutane | NCCCCO | C4H11NO
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
product | 3-benzyloxy-1-(4'-hydroxybutyl)-2-methylpyrid-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCCCO)C | C17H21NO3
